US07645771B2
A solution of methyl 2-chloro-5-{[(trifluoromethyl)sulfonyl]amino}benzoate (1.0 g, 3.15 mmol), sodium hydroxide (378 mg, 9.44 mmol), methanol (6 ml) and water (6 ml) was stirred for 1 hour. Removal of the volatiles by spin evaporation in vacuo gave a residue that was dissolved in 1 N aqueous hydrochloric acid. The aqueous solution was extracted with ethyl acetate (3 times) and the organic layers were combined, washed with water, and concentrated by spin evaporation in vacuo to give 2-chloro-5-{[(trifluoromethyl)sulfonyl]amino}benzoic acid as a crystalline solid (0.78 g, 82%). 1H-NMR (400 MHz, DMSO-d6): δ 7.63-7.60 (m, 1H), 7.59-7.54 (m, 1H), 7.40-7.35 (m, 1H). ES-LCMS m/z 304 (M+H).

reactant | methyl 2-chloro-5-{[(trifluoromethyl)sulfonyl]amino}benzoate | 3.15 mmol, 1.0 g | ClC1=C(C(=O)OC)C=C(C=C1)NS(=O)(=O)C(F)(F)F | C9H7ClF3NO4S
reactant | sodium hydroxide | 9.44 mmol, 378 mg | [OH-].[Na+]
reactant | methanol | 6 ml | CO | CH4O
reactant | water | 6 ml | O | H2O
solvent | hydrochloric acid | 1 N | Cl | ClH
product | 2-chloro-5-{[(trifluoromethyl)sulfonyl]amino}benzoic acid | 0.78 g, 82% | ClC1=C(C(=O)O)C=C(C=C1)NS(=O)(=O)C(F)(F)F | C8H5ClF3NO4S
